US07365069B2
N-(4-Fluorophenyl)pyridine-3-carboximidamide
The title compound was prepared from 3-cyanopyridine (0.94 g, 9 mmol) and 4-fluoroaniline (1 g, 9 mmol) by following the procedure described in preparation 10 (1.5 g, yield 76.9%, purity 97.95% by HPLC). 1H-NMR (CDCl3):δ 4.93 (bs, 2H, D2O exchangeable), 6.92-6.96 (m, 2H), 7.05-7.07 (m, 2H), 7.38-7.41 (m, 1H), 8.22 (s, 1H), 8.71-8.72 (d, 1H), 9.06 (s, 1H). MS m/z:216.3 (M+).

reactant | 3-cyanopyridine | 9 mmol, 0.94 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | 4-fluoroaniline | 9 mmol, 1 g | FC1=CC=C(N)C=C1 | C6H6FN
product | N-(4-Fluorophenyl)pyridine-3-carboximidamide | yield 76.9% | FC1=CC=C(C=C1)NC(=N)C=1C=NC=CC1 | C12H10FN3
